Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / shellfish derived / Nuts
 
Attending: ___.
 
Chief Complaint:
Rash
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a ___ female with PMH of fructose 
malabsorption, illieitus (no evidence of Crohns disease), 
intrabdominal abscess (___) who presents with right flank pain. 
The patient reports over the past week she did not feel well. 
She had some abdominal bloating on ___ and then ___ (3 
days PTA) developed acute onset of RUQ pain. The pain was ___ 
in severity and was similar to when she had intrabdominal 
abscess. She tried taking Advil and Tylenol with minimal 
improvement so presented to OSH for evaluation. At the OSH, she 
had an ultrasound which showed areas in the liver which were 
likely hemangiomas. A CT scan with contrast did not reveal a 
cause for her pain (full report below). Labs were reassuring. 
She was given Zofran and Toradol and discharged home. Her pain 
persisted, and she had ongoing nausea, sweats and may have had a 
fever. She denies prior episodes of pain (other than with 
abdominal abscess). On review of last GI note, did complain of 
RUQ abdominal pain which was attributed to MSK pain. She reports 
this pain is similar but more severe. She also reports adhering 
to a FODMAPS diet.

Then the day prior to admission, she noted small raised itchy 
bumps, first on her scalp and then spreading on her torso. She 
has not noticed a rash like this in the past. Has not started a 
new medication or changed detergents. She has not been outside 
recently. Had a tick bite in ___. She denies oral or 
genital lesions.
Given her ongoing abdominal pain and as she follows with Dr. 
___ at ___ she presented to the ER at ___.

In the ED at ___, the patient was given Morpine 4mg IVx1, 2mg 
x1, Zoran and 1L IVF. 

Currently, the patient reports improvement in her abdominal pain 
 it is now a ___ in severity and radiates to her right flank. 
Her pain is now ___ in her right flank and is worse with 
movement. She has some nausea. Denies dysuria. Denies hematuria. 
No blood in stool.

 
Past Medical History:
Ileitis
Beta Thalassemia minor
Hypothryoidisim
Fructose intolerance

 
Social History:
___
Family History:
Multiple family members with ___ disease
 
Physical Exam:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
No leasions. Oropharynx without visible lesion, erythema or 
exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, slightly tender on deep palpation.  Bowel 
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation. No CVAT.
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: Multiple scattered lesions on scalp, face, back, shoulder 
and arms. Some with vesicular appearance. No lesions on legs.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 07:19AM BLOOD WBC-6.9 RBC-6.05* Hgb-10.2* Hct-34.3 
MCV-57* MCH-16.9* MCHC-29.7* RDW-17.3* RDWSD-32.1* Plt ___
___ 06:40AM BLOOD Glucose-60* UreaN-17 Creat-0.8 Na-137 
K-4.4 Cl-99 HCO3-22 AnGap-16
___ 07:19AM BLOOD ALT-41* AST-28 AlkPhos-52 TotBili-0.6
___ 06:40AM BLOOD Calcium-8.9 Phos-5.0* Mg-2.0
___ 10:20AM BLOOD CRP-16.9*

CXR: No evidence of pneumonia

___:
Labs: 
CBC:
4.8> 11.___/36.8 <183

Lipase 105
LFTs:
Albumuin 309
Alk phos: 60

140 107  14
------------ < 123
4.3 27   0.98

RUQ ultrasound with doppler: ___
Probable multiple hepatic hemangiomas. Gallbladder is within 
normal limits. There is no right hydronephrosis.
CT abdomen/Pelvis with contrast: ___
Diverticulosis coli
No evidence of acute appendicitis or diverticulitis.
No inflammatory changes or fluid collections are seen,.
Small Sub-centimeter non-specific retroperitoneal lymph nodes.
Scattered hypodensities in liver likely tiny hemangiomas and 
cysts
MRI scan would be confirmatory.

___ MRE - 
1.  Normal appearance of the small bowel without evidence of
active or chronic
Crohn's disease.
2.  Colonic diverticula without diverticulitis.

 
Brief Hospital Course:
#Varicella rash
Scattered vesicles on erythematous bases with direct antigen 
testing for VZV positive. Clinical scenario makes disseminated 
varicella zoster unlikely. Rather, her rash most likely 
represents breakthrough varicella, which can occur in those with 
limited or fading immunity, or re-infection (which has been 
reported despite the usual life-long immunity from a primary 
infection). Breakthrough varicella is typically associated with 
a milder illness, no fevers, and fewer lesions.  Pityriasis 
lichenoides et varioliformis acuta (PLEVA) is another diagnostic 
consideration based on the morphology, but is unlikely in the 
setting of a positive VZV DFA. It is also possible that the 
patient did not actually have chickenpox as a child, and this is 
her primary infection. Of note, she does work as a ___ at 
a ___ which may be a possible place of exposure. CXR without 
signs of pneumonia, and no symptoms or laboratory evidence of 
other organ involvement.
- Continue valacyclovir 1 g PO TID for 6 more days or until the 
lesions crust over
- Patient will follow up with her PCP and will seek medical 
attention if the rash starts to worsen again.

#Right side pain: Has been previous worked up for abdominal pain 
with fructose intolerance diagnosed. Otherwise imaging to date 
has been negative. Currently only ALT slightly elevated. Lipase 
is normal and CT without evidence of pancreatitis. Patient does 
have liver hemangiomas seen on CT scan, but on review of MRE it 
seems these were likely present in ___. CRP is elevated at 
16.9. Could be related to her rash given a lesion at the main 
location of the pain. Her description of the pain also does 
sound localized to a dermatome and therefore could be related to 
varicella reactivation (herpetic neuralgia without an overlying 
shingles rash has been described).  Radiculopathy possible. 
Given movement of pain to flank, kidney stones or pyelo also on 
differential. U/A did have some blood, although U/S and CT at 
OSH did not show kidney stones. No evidence of infection on U/A.

Ms. ___ was seen and examined on the day of discharge and is 
clinically stable for discharge today. The total time spent 
today on discharge planning, counseling and coordination of care 
was greater than 30 minutes.
 
Medications on Admission:
1. Levothyroxine Sodium 88 mcg PO DAILY 
 
Discharge Medications:
1.  ValACYclovir 1000 mg PO TID 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth three times daily 
Disp #*18 Tablet Refills:*1 
2.  Levothyroxine Sodium 88 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Varicella zoster rash

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ with a rash. It appears to be caused 
by the virus varicella zoster. This could therefore be a repeat 
case of chicken pox (uncommon but possible) or a reactivation of 
the virus from your original chicken pox infection. Until the 
rash crusts over, you could spread the virus to anyone who is 
not immune (not vaccinated or never had chicken pox)

Instructions:
- Take Valtrex ___ mg three times daily for at least 6 more 
days or until the rash has crusted over
- Please follow up with your primary care provider before going 
back to work
- If you notice any worsening of the rash, please call your 
primary care provider or go to the emergency department
 
Followup Instructions:
___